US08623905B2
To a solution of diazomethane (−10 g) in ether (400 mL) was added dropwise 2,2-dimethyl-but-3-ynoic acid (10.5 g, 93.7 mmol) at 0° C. The mixture was warmed to room temperature and stirred overnight. The mixture was distilled under atmospheric pressure to give crude methyl 2,2-dimethylbut-3-ynoate (14 g), which was used directly in the next step. 1H NMR (400 MHz, CDCl3) δ 3.76 (s, 3H), 2.28 (s, 1H), 1.50 (s, 6H).

reactant | diazomethane | −10 g | [N+](=[N-])=C | CH2N2
reactant | 2,2-dimethyl-but-3-ynoic acid | 93.7 mmol, 10.5 g | CC(C(=O)O)(C#C)C | C6H8O2
solvent | ether | 400 mL | CCOCC | C4H10O
product | methyl 2,2-dimethylbut-3-ynoate | 14 g | CC(C(=O)OC)(C#C)C | C7H10O2
